US06599917B1
c) 6-Methyl-2-(2-phenylethyl)pyridyl Trifluoromethanesulfonate
A mixture of 695 mg of 3-hydroxy-6-methyl-2-(2-phenylethyl)pyridine, 1.5 g of N-phenyltrifluoromethanesulfonimide, 121 mg of 4-dimethylaminopyridine and 0.6 ml of triethylamine was dissolved in 20 ml of dichloromethane, followed by stirring at room temperature for 5 hours. Then, the solvent was removed and the residue was subjected to silica gel column chromatography using 10% ethyl acetate/hexane as an eluent for separation and purification, to give 1.2 g of the target compound.

reactant | 3-hydroxy-6-methyl-2-(2-phenylethyl)pyridine | 695 mg | OC=1C(=NC(=CC1)C)CCC1=CC=CC=C1 | C14H15NO
reactant | N-phenyltrifluoromethanesulfonimide | 1.5 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 121 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-Methyl-2-(2-phenylethyl)pyridyl Trifluoromethanesulfonate | 1.2 g | FC(S(=O)(=O)OC=1C(=NC(=CC1)C)CCC1=CC=CC=C1)(F)F | C15H14F3NO3S
